US05032594
3-Acetylamino-7-benzyl-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A solution of 6-(4-acetylthiosemicarbazido)-1-benzyl-3-propylpyrimidine-2,4(1H,3H)-dione (3.0 g) in dimethylformamide (50 ml) was heated at 100° to 110° C. for 60 hours. The reaction mixture was concentrated and dissolved in 90% methanol. The solution was left standing for cooling to give pale brown crystals, followed by recrystallization from ethanol to obtain colorless crystals, m.p. 108° to 110° C.

reactant | 6-(4-acetylthiosemicarbazido)-1-benzyl-3-propylpyrimidine-2,4(1H,3H)-dione | 3.0 g | C(C)(=O)NC(NNC1=CC(N(C(N1CC1=CC=CC=C1)=O)CCC)=O)=S | C17H21N5O3S
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-Acetylamino-7-benzyl-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | C(C)(=O)NC1=NNC=2N(C(N(C(C21)=O)CCC)=O)CC2=CC=CC=C2 | C17H19N5O3
